### PR TITLE
cedar-spec changes for arithmetic overflow validation

### LINKED ISSUE #63: Arithmetic overflow validation
### Category

Cedar validation features

### Describe the feature you'd like to request

We would like a way to verify in advance that policies will not raise arithmetic overflow errors during evaluation.

Runtime errors of any kind are a potential source of unintended behavior in users' policies, and the possibility of arithmetic overflow errors in particular makes certain kinds of reasoning about Cedar code difficult.

### Describe the solution you'd like

Enhance validation to be able to rule out arithmetic overflow errors.  In essence, the `Long` type will be parameterized with lower and upper bounds on the value.  We start by having the schema state the assumed bounds for each attribute of type `Long`.  Then, for each arithmetic operator in a policy, the validator will compute bounds for the result and report a validation error if the result bounds exceed the range of a Cedar `Long`.

Parts of the implementation:
- Extend the production schema parser to parse the bounds.
- Implement the new feature in the production validator.
- Add bounds to the definitional schema data structure, and implement the new feature in the definitional validator.
- Add DRT coverage of some kind for the new feature.  This would include adding the serialization code needed for the bounds to get from the Rust side to the Dafny side.
- In Dafny, prove that the validator is sound, i.e., if a policy passes validation, then it cannot raise an overflow error on inputs that conform to the schema.
- Extend "schema-based parsing" to enforce the bounds.

### Describe alternatives you've considered

At one point, we considered changing Cedar's integer type to be unbounded (so it could never "overflow"), but we were concerned that operating on "big integers" could become too slow.

### Additional context

_No response_

### Is this something that you'd be interested in working on?

- [X] 👋 I may be able to implement this feature request
- [X] ⚠️ This feature might incur a breaking change (Specifically: depending on the default behavior we end up choosing for attributes with unspecified bounds, policies that previously passed validation may now get errors about potential arithmetic overflow.)

### PR DESCRIPTION
**Pull request by mattmccutchen-amazon**
*Issue #, if available:* cedar-policy/cedar#63

*Description of changes:*
Changes to cedar-spec that are part of our plan to build confidence in the correctness of the arithmetic overflow validation feature (see cedar-policy/cedar#56). (Draft; more details will be provided here when the work is further along.)

By submitting this pull request, I confirm that you can use, modify, copy, and redistribute this contribution, under the terms of your choice.

### CODE REVIEW

File: cedar-dafny/def/core.dfy [hunk 1]
```diff
@@ -50,7 +50,10 @@ module def.core {
   // a value after calling typeCheck with a single expected type.
   datatype Primitive =
     Bool(b: bool) |
-    Int(i: int) |
+    // TODO: We probably want to rename the constructor to `Long` and the field
+    // to `l`. This will cause a lot of churn, so to reduce distraction when
+    // reviewing my branch, I'm not doing it yet.
+    Int(i: i64) |
```
Comment (khieta) [inline cedar-dafny/def/core.dfy:56]: Sounds like a good idea. Might be useful to do that in a separate CR.

File: cedar-dafny/difftest/main.dfy [hunk 2]
```diff
@@ -368,6 +374,19 @@ module difftest.main {
     response := responseToProdJson(ansAndErrors.0, ansAndErrors.1);
   }
 
+  const intTypeFromProdJson := objDeserializer2Fields(
+    "can_be_any", getJsonBool,
+    // Note: `bounds_opt` is optional in production, but it is omitted only for
+    // gradual bounds checking, which we don't support, so we can treat it as
+    // required. That doesn't give a great error message if the field is
+    // missing, but it doesn't seem worth the trouble to fix that.
+    "bounds_opt", objDeserializer2Fields("min", getJsonI64, "max", getJsonI64, (min, max) => Ok((min, max))),
```
Comment (khieta) [inline cedar-dafny/difftest/main.dfy:383]: Wouldn't it make more sense to have one optional field "bounds" that is either `null` or `{min: ..., max: ...}`? What does it mean if both "can_be_any" and "bounds_opt" are set?

(Caveat: I haven't reviewed the Rust implementation, so apologies if my question is answered there.)

File: cedar-dafny/validation/thm/soundness.dfy [hunk 3]
```diff
@@ -1178,6 +1179,51 @@ module validation.thm.soundness {
...
+      decreases BinaryApp(BinaryOp.In,e1,Expr.Set(ei2s)) , 0 , Expr.Set(ei2s) , 0
+      requires InstanceOfRequestType(r,reqty)
+      requires InstanceOfEntityTypeStore(s,ets)
+      requires InstanceOfActionStore(s,acts)
+      requires EffectsInvariant(effs)
+      requires WellTyped(BinaryApp(BinaryOp.In,e1,Expr.Set(ei2s)),effs)
+      requires getType(BinaryApp(BinaryOp.In,e1,Expr.Set(ei2s)),effs) == Type.Bool(False)
+      requires !Typechecker(ets,acts,reqty).isUnspecifiedVar(e1)
+      requires 0 <= i < |ei2s|
+      ensures IsFalse(r,s,BinaryApp(BinaryOp.In,e1,ei2s[i]))
```
Comment (khieta) [inline cedar-dafny/validation/thm/soundness.dfy:1192]: Looks like this is a proof optimization unrelated to overflow validation? Would be cleaner to move to a separate PR

File: cedar-dafny/validation/thm/model.dfy [hunk 4]
```diff
@@ -888,8 +930,20 @@ module validation.thm.model {
     ensures IsSafe(r,s,Expr.Record(es),Type.Record(rt))
   {
     reveal IsSafe();
-    if Evaluator(r,s).interpretRecord(es).Ok? {
+    var evaluator := Evaluator(r,s);
+    var res := evaluator.interpretRecord(es);
+    if res.Ok? {
+      var rv := res.value;
+      assert evaluator.interpret(Expr.Record(es)) == base.Ok(Value.Record(rv));
```
Comment (khieta) [inline cedar-dafny/validation/thm/model.dfy:937]: Proof optimization unrelated to overflow validation?

File: cedar-drt/fuzz/src/schema.rs [hunk 5]
```diff
@@ -1164,8 +1191,21 @@ impl Schema {
...
+                    }
+                    (Some(min), Some(max)) =>
+                    // TODO: We should probably prefer a Long from the pool if it is in range.
+                    {
+                        Ok(Value::Lit(u.int_in_range(*min..=*max)?.into()))
+                    }
+                    // TODO: This is messy. Find a way to restructure
+                    // SchemaTypeVariant so it has the deserialization behavior
+                    // we want without pushing this mess onto all consumers.
+                    _ => panic!("Corrupt SchemaTypeVariant::Long"),
```
Comment (khieta) [inline cedar-drt/fuzz/src/schema.rs:1207]: It looks like you probably want `(min_opt, max_opt)` to be an optional pair, so that you're guaranteed to have both or neither.

File: cedar-drt/fuzz/src/schema.rs [hunk 6]
```diff
@@ -1164,8 +1191,21 @@ impl Schema {
...
+            SchemaTypeVariant::Long { min_opt, max_opt } => {
+                match (min_opt, max_opt) {
+                    (None, None) => {
+                        self.arbitrary_value_for_type(&Type::long(), hierarchy, max_depth, u)
+                    }
+                    (Some(min), Some(max)) =>
+                    // TODO: We should probably prefer a Long from the pool if it is in range.
+                    {
+                        Ok(Value::Lit(u.int_in_range(*min..=*max)?.into()))
+                    }
```
Comment (khieta) [inline cedar-drt/fuzz/src/schema.rs:1203]: Makes sense.

**Comment by khieta** [comment]
Added various minor comments. Overall, it looks good to me (with the caveat that I haven't looked at the corresponding PR in `cedar` repo).

**Review by mattmccutchen-amazon — COMMENTED** [review]
Thanks for the preliminary review.  I'm responding to some of the comments; I'll get to the others eventually.

File: cedar-drt/set_env_vars.sh [hunk 7]
```diff
@@ -2,5 +2,19 @@ if [ -z "${JAVA_HOME-}" ]; then
...
+#
+# Apparently different systems put libjvm.so in different subdirectories of $JAVA_HOME.
+libjvm_dirs=($(find "$JAVA_HOME" -name libjvm.so -printf '%h\n'))
+if [ ${#libjvm_dirs[@]} = 1 ]; then
+    # Accessing an array element in both bash and zsh: https://stackoverflow.com/a/56311706
+    export LD_LIBRARY_PATH=${LD_LIBRARY_PATH+$LD_LIBRARY_PATH:}${libjvm_dirs[@]:0:1}
+else
+    echo >&2 'Error: Failed to find libjvm.so.'
+fi
+unset libjvm_dirs
```
[the remark this answers is not in the document]
Comment (khieta) [reply cedar-drt/set_env_vars.sh:19]: Update: #38 is merged & includes this fix

File: cedar-dafny/validation/thm/model.dfy [hunk 8]
```diff
@@ -628,18 +628,41 @@ module validation.thm.model {
     reveal IsSafe();
   }
 
-  lemma NegSafe(r: Request, s: EntityStore, e: Expr)
-    requires IsSafe(r,s,e,Type.Int)
-    ensures IsSafe(r,s,UnaryApp(Neg,e),Type.Int)
+  // We need `neg` because Dafny seems to be able to use a user-defined
+  // function but not the `-` operator as a trigger to instantiate the
+  // `forall` in the precondition of `NegSafe`.
```
Comment (andrewmwells-amazon) [inline cedar-dafny/validation/thm/model.dfy:633]: Should we file a Dafny issue for this?

**Review by andrewmwells-amazon — APPROVED** [review]

**Comment by khieta** [comment]
Closing this PR since the corresponding [`cedar#56`](https://github.com/cedar-policy/cedar/pull/56) has been closed.
